US07399774B2
6-(5-Chloro-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide
Charge flask with 6-(5-Hydroxy-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide (288 mg, 1.01 mmol) and SOCl2 (5 ml) and heat at 50° C. under nitrogen atmosphere with stirring. After 3.5 hours, concentrate on rotary evaporator to give the title compound as a yellow oil. Due to instability, use this material without purification.

reactant | 6-(5-Hydroxy-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide | 1.01 mmol, 288 mg | OC1C=2C=CC(=CC2CCC1)OC1=NC=C(C(=O)N)C=C1 | C16H16N2O3
reactant | SOCl2 | 5 ml | O=S(Cl)Cl | Cl2OS
product | 6-(5-Chloro-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide | ClC1C=2C=CC(=CC2CCC1)OC1=NC=C(C(=O)N)C=C1 | C16H15ClN2O2
